US05668291
{2-[2-(4-Sulfamoylphenylcarbamoyl)phenyldisulfanyl]propionylamino}-acetic acid
This compound was prepared according to the method of Example 132 using 0.46 g (1.5 mmol) of 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzenesulfonamide and 0.25 g (1.5 mmol) of 2-mercapto-propionylglycine. The product was washed with ether and dried in vacuo to give 0.65 g of the title compound, mp 254°-256° C.

reactant | 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzenesulfonamide | 1.5 mmol, 0.46 g | O=C1N(SC2=C1C=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N | C13H10N2O3S2
reactant | 2-mercapto-propionylglycine | 1.5 mmol, 0.25 g | SC(C(=O)NCC(=O)O)C | C5H9NO3S
product | {2-[2-(4-Sulfamoylphenylcarbamoyl)phenyldisulfanyl]propionylamino}-acetic acid | 0.65 g | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)SSC(C(=O)NCC(=O)O)C | C18H19N3O6S3
